US08349847B2
Preparation of (2,3-Dihydro-Benzo[1,4]dioxin-6-yl methyl)-[1-(3,5-dimethyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-amine (Compound No. 49)
350.0 ml of ethanol and 25.0 g (0.096 mol) of 4-chloro-1-(3,5-dimethyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine (Compound No. 79) were charged into a 1.0 L 4 necked round bottom flask connected to a mechanical stirrer, thermometer socket, condenser and addition funnel. Stirred the mass at 25-30° C. for 15-20 min. 32.0 g of 2,3-dihydro-benzo[1,4]dioxin-6-yl-methylamine hydrochloride was charged at 25-30° C. under stirring. Stirred the mass at 25-30° C. for 15-20 min. 30.0 g of triethyl amine was added slowly at maintaining the mass temperature 25-30° C. during 30-45 min. Maintained the mass temperature at 25-30° C. for 30-45 min. Temperature of the reaction mass was raised to refluxing. Maintained the mass at reflux temperature for 10-11 hours. Reaction mass was cooled to 25-30° C. Maintained the mass temperature at 25-30° C. for 60-90 min. Reaction mass was cooled to 0-5° C. Maintained the mass temperature at 0-5° C. for 90-120 min. Solid was filtered and washed with 50.0 ml of chilled ethanol. Compound was dried under vacuum at 60-65° C. till constant weight is obtained. Dry weight of the compound is 35.50 g. 175.0 ml of dimethyl sulphoxide and 35.50 g of dry crude compound were charged into a 1.0 L 4-necked round bottom flask, connected to a mechanical stirrer, thermometer socket and condenser. Mass temperature was raised to 55-60° C. Maintained the mass temperature at 55-60° C. for 30-45 min. Insoluble solid was filtered through hyflow bed, washed the flask with 20.00 ml of hot dimethyl sulphoxide. Clear aerate was collected into flask. 1000.0 ml of Water is charged into a 3.0 L 4 necked round bottom flask, connected to a mechanical stirrer, thermo meter socket and addition funnel. Dimethyl sulphoxide solution was added slowly to water at maintaining the mass temperature at 25-35° C. over a period of 30-45 min. Maintained the mass temperature at 25-35° C. for 60-90 min. Temperature of the mass was cooled to 5-10° C. Maintained the mass temperature at 5-10° C. for 90-120 min. Solid was filtered and solid was washed with 150 ml of water. Compound was dried under vacuum at 60-65° C. 32.0 g Of dried compound is obtained (yield—85.5% by theory). Product purity by HPLC is 99.48%.

reactant | ethanol | 350.0 ml | C(C)O | C2H6O
reactant | 4-chloro-1-(3,5-dimethyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine | 0.096 mol, 25.0 g | ClC1=C2C(=NC=N1)N(N=C2)C2=CC(=CC(=C2)C)C | C13H11ClN4
reactant | 2,3-dihydro-benzo[1,4]dioxin-6-yl-methylamine hydrochloride | 32.0 g | Cl.O1CCOC2=C1C=CC(=C2)NC
reactant | triethyl amine | 30.0 g | C(C)N(CC)CC | C6H15N
product | (2,3-Dihydro-Benzo[1,4]dioxin-6-yl methyl)-[1-(3,5-dimethyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-amine | 32.0 g, yield—85.5% | O1CCOC2=C1C=CC(=C2)CNC2=C1C(=NC=N2)N(N=C1)C1=CC(=CC(=C1)C)C | C22H21N5O2
